US07618979B2
Step 7 ethyl (2E)-(1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-ylidene)ethanoate
To a solution of 1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one (0.60 g, 2.8 mmol) and triethyl phosphonoacetate (1.00 g, 4.46 mmol) in THF (24 mL) at −78° C. was added 80% NaH (0.12 g, 4.00 mmol), the reaction mixture was allowed to warm to 0° C., then to room temperature. The reaction mixture was poured onto saturated NH4Cl and EtOAc. The organic phase was separated, dried over Na2SO4 and evaporated. The title compound was purified by flash chromatography (40% EtOAc in Hexane).

reactant | 1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one | 2.8 mmol, 0.60 g | C(=C)(C)C1=NC=CC2=C1C=C1C(CCN21)=O | C13H12N2O
reactant | NaH | 4.00 mmol, 0.12 g | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | ethyl (2E)-(1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-ylidene)ethanoate | C(=C)(C)C1=NC=CC2=C1C=C1\C(\CCN21)=C\C(=O)OCC | C17H18N2O2
